US08278341B2
A mixture of 5,7-diBOC-2,10-difluoro-6-hydroxyindolo[2,3-b]carbazole (4.03 g, 8.0 mmol), tert-butyl 3-bromopropylcarbamate (2.20 g, 9.2 mmol), and Cs2CO3 (10.0 g, 31 mmol), and anhydrous MeCN (120 mL) was heated at 100° C. under Ar until the starting material disappeared (˜2 h). After cooled to RT, the inorganic salt was removed by filtration, washed with dichloromethane, and the combined filtrate was concentrated. The resulting residue 3-(2,10-difluoro-5,7-diBOC-indolo[2,3-b]carbazol-6-yloxy)propan-1-amine was dissolved in CH2Cl2 (100 mL). TFA (10 mL) was added and the solution was stirred at RT overnight. After evaporation, the residue was subjected to chromatography on silica gel, eluting with ethyl acetate/hexane/MeOH (10% cNH3.H2O) (50/50/10-100/0/10), giving 2.35 g (82%) of 3-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propan-1-amine. 1H NMR (400 MHz, DMSO-d6) δ 11.8 (br s, 2H), 8.56 (s, 1H), 7.89 (dd, J=9.4, 2.6 Hz, 2H), 7.44 (dd, J=8.6, 4.6 Hz, 2H), 7.17 (td, J=9.2, 2.4 Hz, 2H), 4.36 (t, J=6.2 Hz, 2H), 2.97 (t, J=6.2 Hz, 2H), 1.98 (pentalet, J=6.2 Hz, 2H).

reactant | 5,7-diBOC-2,10-difluoro-6-hydroxyindolo[2,3-b]carbazole | 8.0 mmol, 4.03 g | C(=O)(OC(C)(C)C)N1C2=CC=C(C=C2C=2C=C3C(=C(C12)O)N(C=1C=CC(=CC13)F)C(=O)OC(C)(C)C)F | C28H26F2N2O5
reactant | tert-butyl 3-bromopropylcarbamate | 9.2 mmol, 2.20 g | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
reactant | Cs2CO3 | 31 mmol, 10.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 120 mL | CC#N | C2H3N
product | 3-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propan-1-amine | 2.35 g, 82% | FC=1C=C2C=3C=C4C(=C(C3NC2=CC1)OCCCN)NC=1C=CC(=CC14)F | C21H17F2N3O
